US04289787
5.21 Grams of N-ethyl-N-n-hexyl-3-phenylpropylamine was placed in a 200 ml. round bottom flask. 100 Milliliters of ethyl bromide was added. The mixture was refluxed five days. Excess ethyl bromide was removed by evaporation in vacuo leaving as an oil N,N-diethyl-N-n-hexyl-3-phenylpropylammonium bromide.

reactant | N-ethyl-N-n-hexyl-3-phenylpropylamine | C(C)N(CCCCCC)CCCC1=CC=CC=C1 | C17H29N
reactant | ethyl bromide | C(C)Br | C2H5Br
product | N,N-diethyl-N-n-hexyl-3-phenylpropylammonium bromide | [Br-].C(C)[N+](CCCCCC)(CC)CCCC1=CC=CC=C1 | InChI=1S/C19H34N.BrH/c1-4-7-8-12-17-20(5-2,6-3)18-13-16-19-14-10-9-11-15-19;/h9-11,14-15H,4-8,12-13,16-18H2,1-3H3;1H/q+1;/p-1
